US04902835
To a mixture of 3.0 g 75% sulfuric acid and 15 mL n-pentane was added 1.0 g (4.6 mmol) 4-bromo-1-methoxy-1,1,2-trifluoro-2-butene at room temperature in a 50 mL round-bottom flask. The resulting mixture was stirred for 48 hours at room temperature. Excess ice water was added and the liquid extracted with diethyl ether. The ether layer was successively washed with water and brine, then dried over anhydrous magnesium sulfate. Evaporation of the solvent in vacuo gave the crude ester which was purified by chromatography on silica gel to give 0.62 g (68.9%) of methyl (Z)-4-bromo-2-fluoro-2-butenoate. Analytical sample distilled a 90°-92° C. (18 mm Hg). 1H-NMR (300 MHz, CDCl3) δ 3.84(3H, s), 4.40(2H, dd, J=2.5, 9 Hz), 6.35(1H, dt, J=9, 30 Hz). 19F-NMR (CDCl3): φ 122.5(d, J=30.2 Hz).

reactant | sulfuric acid | 3.0 g | S(O)(O)(=O)=O | H2O4S
reactant | 4-bromo-1-methoxy-1,1,2-trifluoro-2-butene | 4.6 mmol, 1.0 g | BrCC=C(C(F)(F)OC)F | C5H6BrF3O
solvent | n-pentane | 15 mL | CCCCC | C5H12
product | methyl (Z)-4-bromo-2-fluoro-2-butenoate | 0.62 g, 68.9% | BrC\C=C(\C(=O)OC)/F | C5H6BrFO2
